US07435747B2
N-(1-Carbamimidoyl-piperidin-4-ylmethyl)-3-[2-(2,4-dichloro-phenyl)-ethoxy]-4-methoxy-benzamide
A solution of 100 mg 3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-benzoic acid in 2 ml DMF was activated by the addition of 53 mg carbonyldiimidazole. After stirring for 2 h at RT 90 mg of 4-Aminomethyl-piperidine-1-carboxamidine hydrochloride and 2 ml DMSO were added and the mixture was stirred overnight. Subsequent dilution with 3 ml water and filtration through a chem elut® cartridge, eluting with ethyl acetate yielded after concentration under reduced pressure a white solid. Purification by preparative HPLC (C18 reverse phase column, elution with a H2O/MeCN gradient with 0.5% TFA) and lyophilisation afforded 30 mg (20%) of the title compound as a white powder.

reactant | 3-[2-(2,4-Dichlorophenyl)-ethoxy]-4-methoxy-benzoic acid | 100 mg | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)O)C=CC1OC | C16H14Cl2O4
reactant | carbonyldiimidazole | 53 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-Aminomethyl-piperidine-1-carboxamidine hydrochloride | 90 mg | Cl.NCC1CCN(CC1)C(=N)N
reactant | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(1-Carbamimidoyl-piperidin-4-ylmethyl)-3-[2-(2,4-dichloro-phenyl)-ethoxy]-4-methoxy-benzamide | 30 mg, 20% | C(N)(=N)N1CCC(CC1)CNC(C1=CC(=C(C=C1)OC)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C23H28Cl2N4O3
